data/mechanism_extracts/OrgLett/10.1021_acs.orglett.3c02607.json
{"doi": "10.1021_acs.orglett.3c02607", "journal": "OrgLett", "is_review": false, "rxn_class_summary": "Organoelectrophotocatalytic tandem radical cyclization of N-arylacrylamides with formamides or aldehydes to give acylated 3-CF3-2-oxindoles via carbamoyl/acyl radicals generated by phenanthrenequinone (PQ) under combined electrolysis and visible light", "mechanism_family": ["photoredox_combined", "radical_anodic", "mediator_anodic"], "electrochemical_role": "PQ acts as a photoexcited HAT catalyst that abstracts the formyl C-H of formamide/aldehyde to give a carbamoyl/acyl radical and PQH•; PQH• is reoxidized at the RVC anode (via PQH2) to regenerate PQ, while protons are reduced to H2 at the Pt cathode", "key_intermediates": [{"name": "photoexcited PQ* (phenanthrenequinone excited state)", "smiles": null, "role": "reactive"}, {"name": "semiquinone radical PQH•", "smiles": null, "role": "transient"}, {"name": "reduced hydroquinone PQH2", "smiles": null, "role": "resting_state"}, {"name": "carbamoyl radical from formamide (•C(O)NR1R2)", "smiles": null, "role": "reactive"}, {"name": "alkyl radical 47 after addition/cyclization onto N-arylacrylamide arene", "smiles": null, "role": "reactive"}, {"name": "TEMPO-trapped carbamoyl adduct 46", "smiles": null, "role": "off_pathway"}], "electron_flow": "Visible light excites PQ to PQ*, which abstracts the formyl H of formamide/aldehyde (2) to give an acyl/carbamoyl radical (45) and PQH•; 45 adds to the acrylamide 1 and the resulting C-radical cyclizes onto the arene to give cyclohexadienyl radical 47, which is rearomatized either by HAT to PQH• (path A) or by anodic oxidation/deprotonation (path B) to product 3; PQH2 is reoxidized at the RVC anode to close the PQ cycle while H+ is reduced to H2 at the Pt cathode.", "rate_determining_step": "HAT from the formyl C-H of formamide/aldehyde by PQ* to generate the acyl/carbamoyl radical", "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "TEMPO-carbamoyl adduct 46 detected by HRMS, supporting a free carbamoyl radical intermediate"}, {"name": "control without PQ", "smiles": null, "purpose": "other", "observation": "No product 3 formed (nd), PQ is essential"}, {"name": "control without electricity", "smiles": null, "purpose": "other", "observation": "Yield drops to 12%, anodic turnover of PQ is needed"}, {"name": "control without light", "smiles": null, "purpose": "on/off_light_or_current", "observation": "No product (nd); photoexcitation of PQ is required"}, {"name": "control without CH3SO3H", "smiles": "CS(=O)(=O)O", "purpose": "other", "observation": "Yield drops to 23%, acid promotes the reaction"}, {"name": "reaction under air", "smiles": null, "purpose": "other", "observation": "Only trace product, radical chain sensitive to O2"}, {"name": "alternative catalysts (anthraquinone, naphthalene-1,2- and 1,4-dione)", "smiles": null, "purpose": "redox_probe", "observation": "Much lower yields (trace, 17%, 26%), highlighting PQ's unique photoelectrocatalytic activity"}, {"name": "DMF as formamide substrate", "smiles": "CN(C)C=O", "purpose": "other", "observation": "Inefficient, attributed to competing HAT from N-methyl C-H"}], "evidence_types_used": ["intermediate_trap_TEMPO", "on/off_light_or_current", "isolation_of_intermediate", "other"], "evidence_strength": "medium", "notes": "Two pathways are proposed for rearomatization of cyclohexadienyl radical 47: path A (HAT to PQH•) and path B (anodic oxidation followed by deprotonation); the authors do not distinguish between them. A single-crystal X-ray structure (CCDC 2270962) of product 3 confirms regiochemistry. PQ plays a dual role as photo-HAT catalyst and anodically recyclable mediator, enabling oxidant- and metal-free conditions with H2 as the cathodic byproduct."}
